US04163059
4,5-Dichloro-3-(3,5-dichloro-phenylimino)-1,2-dithiolene
18.5 g of 3,5-dichloro-aniline were dissolved in 300 ml of methylene chloride and 50 ml of triethylamine and 31.0 g of 3,4,5-trichloro-1,2-dithiolium chloride were introduced at 10°-15° C. The mixture was stirred for about 12 hours, until a test for aromatic amine, by diazotizing and coupling, proved negative. The resulting dark solution was then washed three times with 200 ml of water, dried over potassium carbonate and filtered over a column of aluminum oxide, to remove impurities that imparted a color. The filtrate was reduced to dryness in vacuo and the residue was recrystallized from petroleum ether.

reactant | 3,5-dichloro-aniline | 18.5 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trichloro-1,2-dithiolium chloride | 31.0 g | [Cl-].ClC=1S[S+]=C(C1Cl)Cl
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4,5-Dichloro-3-(3,5-dichloro-phenylimino)-1,2-dithiolene | ClC=1C(SSC1Cl)=NC1=CC(=CC(=C1)Cl)Cl | C9H3Cl4NS2
